US05219871
Preparation of 4-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenyl-4-methylpentane
Sodium hydride (4.4 g of a 60% dispersion in mineral oil) was added in portions to a solution of diphenylacetonitrile (19.3 g) in anhydrous toluene (100 ml). The mixture was heated under reflux for 1.5 hours then allowed to cool to 50° whereupon a solution of 2-(N-benzyl-N-methylamino)-4-chloro-2-methylbutane (11.3 g-see Preparation 11) in anhydrous toluene (20 ml) was added and the mixture heated under reflux for 3 hours. The mixture was partitioned between toluene (200 ml) and 10% aqueous sodium hydroxide (100 ml), the layers separated and the toluene layer washed with water (100 ml). The toluene solution was dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing toluene (50% up to 100%) and then with toluene containing ethyl acetate (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a straw coloured oil, yield 14.5 g.

reactant | Sodium hydride | [H-].[Na+]
reactant | diphenylacetonitrile | 19.3 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | 2-(N-benzyl-N-methylamino)-4-chloro-2-methylbutane | 11.3 g | C(C1=CC=CC=C1)N(C)C(C)(CCCl)C | C13H20ClN
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenyl-4-methylpentane | C(C1=CC=CC=C1)N(C)C(CCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N)(C)C | C27H30N2
